US05736487
5(a) Methyl (6-fluorobenzothiazol-2-yl)formate
Hydrogen chloride gas was introduced over 3 minutes into a flask containing a solution of 137.2 mg of 2-cyano-6-fluorobenzothiazole in 2.7 ml of methanol with stirring, the reaction mixture being cooled in an ice-water bath. The reaction mixture was stirred at the same temperature for 2 minutes, and then water was added thereto. The resulting mixture was extracted with ethyl acetate to give an extract which was washed first with water and then an aqueous sodium chloride solution and then dried over sodium sulfate. The solvent was then removed by evaporation under reduced pressure and the resulting residue was purified by column chromatography through silica gel using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 106.8 mg (yield 68%) of the title compound as a pale yellow crystalline solid.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-cyano-6-fluorobenzothiazole | 137.2 mg | C(#N)C=1SC2=C(N1)C=CC(=C2)F | C8H3FN2S
reactant | water | O | H2O
reactant | methanol | 2.7 ml | CO | CH4O
product | Methyl (6-fluorobenzothiazol-2-yl)formate | 106.8 mg, yield 68% | FC1=CC2=C(N=C(S2)C(=O)OC)C=C1 | C9H6FNO2S
